US06555552B2
(1R*,2R*,5S*)-2-(2-Methoxy-5-(trifluoromethoxy)benzylamino)-8-benzyl-1-phenyl-8-azabicyclo[3.2.1]octane Dihydrochloride
(1R*,2R*,5S*)-2-amino-8-benzyl-1-phenyl-8-azabicyclo[3.2.1]octane (Description 9; 156 mg, 0.53 mmol) and 2-methoxy-5-(trifluoromethoxy)benzaldehyde (132 mg, 0.6 mmol) were dissolved in 1,2-dichloroethane (10 mL) and acetic acid (35 μL), and treated with sodium triacetoxyborohydride (127 mg, 0.6 mmol). The suspension formed was stirred at ambient temperature for 16 hours, then quenched with saturated aqueous sodium hydrogen carbonate solution (50mL). The mixture was extracted with dichloromethane (2×50 mL) and the extracts were dried (MgSO4), then concentrated. Purification of the residue gave the desired free base which was taken up in ethyl acetate (10 mL) and treated with ethereal hydrogen chloride (1M, 2 mL). The solid formed was recovered by filtration and recrystallized from methanol/diethyl ether to give the title compound as a white solid (178 mg, 0.3 mmol).

reactant | (1R*,2R*,5S*)-2-amino-8-benzyl-1-phenyl-8-azabicyclo[3.2.1]octane | 0.53 mmol, 156 mg | N[C@H]1[C@@]2(CC[C@H](CC1)N2CC2=CC=CC=C2)C2=CC=CC=C2 | C20H24N2
reactant | 2-methoxy-5-(trifluoromethoxy)benzaldehyde | 0.6 mmol, 132 mg | COC1=C(C=O)C=C(C=C1)OC(F)(F)F | C9H7F3O3
reactant | sodium triacetoxyborohydride | 0.6 mmol, 127 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrogen chloride | 1M, 2 mL | Cl | ClH
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
solvent | acetic acid | 35 μL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | (1R*,2R*,5S*)-2-(2-Methoxy-5-(trifluoromethoxy)benzylamino)-8-benzyl-1-phenyl-8-azabicyclo[3.2.1]octane Dihydrochloride | 0.3 mmol, 178 mg | Cl.Cl.COC1=C(CN[C@H]2[C@@]3(CC[C@H](CC2)N3CC3=CC=CC=C3)C3=CC=CC=C3)C=C(C=C1)OC(F)(F)F | InChI=1S/C29H31F3N2O2.2ClH/c1-35-26-14-13-25(36-29(30,31)32)18-22(26)19-33-27-15-12-24-16-17-28(27,23-10-6-3-7-11-23)34(24)20-21-8-4-2-5-9-21;;/h2-11,13-14,18,24,27,33H,12,15-17,19-20H2,1H3;2*1H/t24-,27+,28+;;/m0../s1
